US07829580B2
(E)-4-(Acetylsulfanyl)-3-{[1-(carbamoylmethyl)-1H-pyrazol-3-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidine (Exemplification Compound No. 2-102)
To a solution of (E)-4-(acetylsulfanyl)-3-{[1-(carboxymethyl)-1H-pyrazol-3-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidine hydrochloride (190 mg) in dichloromethane (15 ml) were added isobutyl chloroformate (0.06 ml) and triethylamine (0.18 ml) under ice-cooling, and the resulting mixture was stirred at the same temperature for 30 minutes. To this reaction mixture was added 28% aqueous ammonia solution (0.03 ml), and the resulting mixture was stirred at room temperature for 45 minutes. After stirring, saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture and extracted with dichloromethane. The extract was dried over anhydrous magnesium sulfate. The solvent was removed in vacuo, and the residue was purified by chromatography on a silica gel column using a mixed solvent of methanol and dichloromethane (1:19) as the eluent to afford the title compound (80 mg, yield: 42%) as a yellow oil.

reactant | (E)-4-(acetylsulfanyl)-3-{[1-(carboxymethyl)-1H-pyrazol-3-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidine hydrochloride | 190 mg | Cl.C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C1=NN(C=C1)CC(=O)O
reactant | isobutyl chloroformate | 0.06 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ammonia | 0.03 ml | N | H3N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.18 ml | C(C)N(CC)CC | C6H15N
product | (E)-4-(Acetylsulfanyl)-3-{[1-(carbamoylmethyl)-1H-pyrazol-3-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidine | 80 mg, yield: 42% | C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C1=NN(C=C1)CC(N)=O | C24H27FN4O3S
